US08138187B2
4-Cyano-4-phenylcyclohexanone
5-Cyano-2-oxo-5-phenylcyclohexanecarboxylic acid methyl ester (7.71 g, 0.03 mol) was dissolved in 10 per cent strength H2SO4 and concentrated acetic acid (240 ml). The reaction mixture was stirred at 100° C. for 24 h. The course of the reaction was monitored by TLC. For working up, the mixture was diluted with water (400 ml), while cooling with ice, and extracted with ethyl acetate (3×100 ml). The organic phase was then washed thoroughly with water (6×100 ml), saturated sodium bicarbonate solution (10×100 ml) and saturated sodium chloride solution (1×100 ml). After drying with Na2SO4, the solvent was distilled off on a rotary evaporator. It was possible to isolate the desired product in a yield of 5.46 g (92%) with a melting point of 106-107° C.

reactant | 5-Cyano-2-oxo-5-phenylcyclohexanecarboxylic acid methyl ester | 0.03 mol, 7.71 g | COC(=O)C1C(CCC(C1)(C1=CC=CC=C1)C#N)=O | C15H15NO3
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | acetic acid | 240 ml | C(C)(=O)O | C2H4O2
solvent | water | 400 ml | O | H2O
product | 4-Cyano-4-phenylcyclohexanone | C(#N)C1(CCC(CC1)=O)C1=CC=CC=C1 | C13H13NO
